### PR TITLE
chore: dot notation for functions where I missed it the most

### PR DESCRIPTION
**Pull request by madvorak**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by madvorak** [comment]
Can I add a file that isn't included with `import Mathlib` please?
I would like these dot notations optional but ready to be used.

**Comment by eric-wieser** [comment]
> I would like these dot notations optional but ready to be used.

This is what `scoped attribute` is for (though I don't know if that's legal for `app_unexpander`)

**Comment by kmill** [comment]
I'm not really sure what to do with these, and whether to make them scoped, but maybe maybe you could put these in `Mathlib/Util/ExtraDelaborators.lean` and leave them un-`scoped`. They're relatively harmless, and it might be ok if they're activated when people import `Mathlib`.

Making them `scoped` means you'd have to activate them with an `open` in every module where you want to use them, which seems unpleasant.

Regarding `Mathlib.lean`, every module in mathlib must appear without exception.

File: MathlibExtras/DotNotation.lean [hunk 1]
```diff
@@ -0,0 +1,38 @@
+/-
+Copyright (c) 2023 Martin Dvorak. All rights reserved.
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Martin Dvorak, Kyle Miller
+-/
+import Mathlib.Algebra.BigOperators.Multiset.Basic
+
+@[app_unexpander List.take]
+def List.take.unexpander : Lean.PrettyPrinter.Unexpander
+  | `($_ $f $μ) => `($(μ).$(Lean.mkIdent `take) $f)
```
Comment (kmill) [inline MathlibExtras/DotNotation.lean:10]: Could you go through and make sure the names reflect what they're for? It would make it easier to evaluate whether these unexpanders are correct.

```suggestion
  | `($_ $n $xs) => `($(xs).$(Lean.mkIdent `take) $n)
```

File: MathlibExtras/DotNotation.lean [hunk 2]
```diff
@@ -0,0 +1,38 @@
+/-
+Copyright (c) 2023 Martin Dvorak. All rights reserved.
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Martin Dvorak, Kyle Miller
```
Comment (kmill) [inline MathlibExtras/DotNotation.lean:4]:
```suggestion
Authors: Martin Dvorak
```
No need to list me as an author -- the authors list is generally meant to be who takes some responsibility for the module, and while I'm happy to support you in helping to write the occasional unexpander, I'm probably not going to maintain this module myself. If you're worried about attribution, you can add me in the copyright line, but it's not necessary.

File: Mathlib/Util/ExtraDelaborators.lean [hunk 3]
```diff
@@ -0,0 +1,69 @@
...
+
+example (l : List ℕ) : l.take l.length = l.takeWhile (fun _ => true) := by
+  rw [List.take_length]
+  induction l <;> congr
+
+example (l : List ℕ) : l.drop 0 = l.dropWhile (fun _ => false) := by
+  cases l <;> rfl
+
+example (l : List ℕ) : (Multiset.ofList l).map Nat.succ = Multiset.ofList (l.map Nat.succ) := by
+  simp
```
Comment (eric-wieser) [inline Mathlib/Util/ExtraDelaborators.lean:69]: These belong in a `test` file, using `#check` and `guard_msgs`

Comment (madvorak) [reply Mathlib/Util/ExtraDelaborators.lean:69]: I am surprised they belong at all. The examples were intended only for reviewers to be able to quickly see that the delaborators work; I was going to delete them before merging.

Comment (eric-wieser) [reply Mathlib/Util/ExtraDelaborators.lean:69]: > I am surprised they belong at all. The examples were intended only for reviewers to be able to quickly see that the delaborators work; I was going to delete them before merging.

Anything that is worth showing the reviewers now is probably worth showing someone reading or changing the code long after the PR is merged. So either they belong in the PR description, or in a test.
